US05691335
Synthesis of 3-(2-phenoxybenzoyl)-1phenyl-imidazolidin-2,4-dione (Compound 18):
In a similar manner to Example 8, 500 mg (2.80 mmol) of 1-phenyl-imidazolidin-2,4-dione were reacted with 700 mg (3.00 mmol) of 2-phenoxybenzoyl chloride. After completion of the reaction, pyridine was distilled off under reduced pressure, and the resultant residue was subjected to extraction with ethyl acetate. The organic layer was washed with dilute hydrochloric acid and with saturated saline. The thus-washed organic layer was dried over anhydrous magnesium sulfate, and the solvent was then distilled off. The resultant residue was purified by column chromatography on silica gel (developing solvent: n-hexane/ethyl acetate) and subjected to crystallization from n-hexane/ethyl acetate to obtain 360 mg (yield: 32.8%) of the title compound.

reactant | 1-phenyl-imidazolidin-2,4-dione | 2.80 mmol, 500 mg | C1(=CC=CC=C1)N1C(NC(C1)=O)=O | C9H8N2O2
reactant | 2-phenoxybenzoyl chloride | 3.00 mmol, 700 mg | O(C1=CC=CC=C1)C1=C(C(=O)Cl)C=CC=C1 | C13H9ClO2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 3-(2-phenoxybenzoyl)-1phenyl-imidazolidin-2,4-dione | 360 mg, yield: 32.8% | O(C1=CC=CC=C1)C1=C(C(=O)N2C(N(CC2=O)C2=CC=CC=C2)=O)C=CC=C1 | C22H16N2O4
